US05149357
This compound is prepared in a manner analogous to that of Example 1, Step I, using equimolar amounts of 4-nitrophenyl 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate, methanesulfonamide, and potassium carbonate in acetonitrile to yield 2-[3-phenyl-2-(methylsulfonylaminocarbonyl)phenoxy]-4,6-dimethoxypyrimidine.

reactant | 4-nitrophenyl 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate | C1(=CC=CC=C1)C1=CC=CC(=C1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC1=NC(=CC(=N1)OC)OC | C25H19N3O7
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[3-phenyl-2-(methylsulfonylaminocarbonyl)phenoxy]-4,6-dimethoxypyrimidine | C1(=CC=CC=C1)C=1C(=C(OC2=NC(=CC(=N2)OC)OC)C=CC1)C(=O)NS(=O)(=O)C | C20H19N3O6S
